US06720338B2
methyl 4-(6-methoxypyridin-3-yl)benzoate
A mixture of 5-bromo-2-methoxypyridine (2.93 g, 10 mmol), 4-methylcarboxybenzeneboronic acid (1.80 g, 10 mmol), Pd(Ph3P)4 (0.346 g, 0.3 mmol) and CsF (1.52 g, 10 mmol) in DME (60 mL) and methanol (30 mL) was heated to reflux for 18 hours and concentrated. The concentrate was dissolved in water (50 mL) and ethyl acetate (300 mL) and the organic phase was washed with water (2×50 mL) and brine (50 mL), dried (Na2SO4), filtered, and concentrated. The concentrate was purified by flash column chromatography on silica gel with 3:1 hexanes/ethyl acetate to provide the desired product. MS (APCI) m/e 278, 280 (M−H)−, (M+H)+.

reactant | 5-bromo-2-methoxypyridine | 10 mmol, 2.93 g | BrC=1C=CC(=NC1)OC | C6H6BrNO
reactant | 4-methylcarboxybenzeneboronic acid | 10 mmol, 1.80 g | CC1=CC(=C(C=C1)B(O)O)C(=O)O | C8H9BO4
reactant | CsF | 10 mmol, 1.52 g | [F-].[Cs+]
reactant | DME | 60 mL | COCCOC | C4H10O2
solvent | methanol | 30 mL | CO | CH4O
catalyst | Pd(Ph3P)4 | 0.3 mmol, 0.346 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | methyl 4-(6-methoxypyridin-3-yl)benzoate | COC1=CC=C(C=N1)C1=CC=C(C(=O)OC)C=C1 | C14H13NO3
